US07923456B2
5-(2-Fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid ((S)-2-hydroxy-propoxy)-amide
To a solution of 5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid (130 mg, 0.33 mmol) in THF (1.7 mL) was added (S)-1-aminooxy-propan-2-ol hydrochloride (84 mg, 0.66 mmol), DIPEA (0.23 mL, 1.32 mmol), HOBt (88 mg, 0.66 mmol) and EDCI (126 mg, 0.66 mmol). After 18 hours stirring at ambient temperature, further (S)-1-aminooxy-propan-2-ol hydrochloride (84 mg, 0.66 mmol), DIPEA (0.23 mL, 1.32 mmol), HOBt (88 mg, 0.66 mmol) and EDCI (126 mg, 0.66 mmol) and THF (1.7 mL) were added. The reaction mixture was stirred at ambient temperature for a further 5 hours. The reaction mixture was loaded onto an Isolute® SCX-2 cartridge. The cartridge was then washed with methanol and the desired compound was eluted using a 2M solution of ammonia in methanol. Appropriate fractions were combined and concentrated under reduced pressure and the residue azeotroped with dichloromethane. The resultant residue was subjected to flash chromatography (Si-PPC, gradient 0 to 10%, methanol in dichloromethane) to afford the title compound as a yellow solid (17 mg, 11%). LCMS (method A): RT=6.01 min, [M+H]+=471. 1H NMR (DMSO-d6): 8.07 (1H, s), 7.58 (1H, dd, J=10.71, 1.92 Hz), 7.43 (1H, s), 7.38 (1H, d, J=9.31 Hz), 7.31-7.28 (1H, m), 6.89 (1H, d, J=9.31 Hz), 6.35 (1H, t, J=8.68 Hz), 3.69-3.60 (1H, m), 3.45-3.38 (2H, m), 0.96 (3H, d, J=6.35 Hz).

reactant | 5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid | 0.33 mmol, 130 mg | FC1=C(C=CC(=C1)I)NC1=C(C=CC=2N1C=NC2)C(=O)O | C14H9FIN3O2
reactant | (S)-1-aminooxy-propan-2-ol hydrochloride | 0.66 mmol, 84 mg | Cl.NOC[C@H](C)O
reactant | DIPEA | 1.32 mmol, 0.23 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 0.66 mmol, 88 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.66 mmol, 126 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | (S)-1-aminooxy-propan-2-ol hydrochloride | 0.66 mmol, 84 mg | Cl.NOC[C@H](C)O
reactant | DIPEA | 1.32 mmol, 0.23 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 0.66 mmol, 88 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.66 mmol, 126 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | THF | 1.7 mL | C1CCOC1 | C4H8O
solvent | THF | 1.7 mL | C1CCOC1 | C4H8O
product | 5-(2-Fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid ((S)-2-hydroxy-propoxy)-amide | 17 mg, 11% | O[C@H](CONC(=O)C=1C=CC=2N(C1NC1=C(C=C(C=C1)I)F)C=NC2)C | C17H16FIN4O3
